US07053107B2
N-(2,5-Dimethyl-2H-pyrazol-3-ylmethyl)-2-[3-(pyrrol-1-yliminomethyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-6-ylamino]-benzamide
Prepared in a similar manner to that described for Example 6 above except using 2-[3-(Pyrrol-1-yliminomethyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-6-ylamino]-benzoic acid and C-(2,5-Dimethyl-2H-pyrazol-3-yl)-methylamine. 1H NMR (CDCl3) δ 9.56 (1H, s), 8.68 (1H, s), 8.30 (1H, d, J=8.7 Hz), 7.49 (1H, d, J=8.3 Hz), 7.43 (1H, dd, J=7.9, 1.5 Hz), 7.36–7.31 (2H, m), 7.23 (2H, t, J=2.6 Hz), 7.17 (1H, dd, J=8.7, 1.9 Hz), 6.83 (1H, t, J=7.2 Hz), 6.32 (1H, bt), 6.29 (2H, t, J=2.3 Hz), 6.01 (1H, s), 5.67 (2H, s), 4.61 (2H, d, J=5.6 Hz), 3.60 (3H, s), 3.58 (2H, t, J=8.3 Hz), 2.22 (3H, s), 0.90 (2H, t, J=8.7 Hz), 0.06 (9H, s).

reactant | 2-[3-(Pyrrol-1-yliminomethyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-6-ylamino]-benzoic acid | N1(C=CC=C1)N=CC1=NN(C2=CC(=CC=C12)NC1=C(C(=O)O)C=CC=C1)COCC[Si](C)(C)C | C25H29N5O3Si
reactant | C-(2,5-Dimethyl-2H-pyrazol-3-yl)-methylamine | CN1N=C(C=C1CN)C | C6H11N3
product | N-(2,5-Dimethyl-2H-pyrazol-3-ylmethyl)-2-[3-(pyrrol-1-yliminomethyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-6-ylamino]-benzamide | CN1N=C(C=C1CNC(C1=C(C=CC=C1)NC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=NN1C=CC=C1)=O)C | C31H38N8O2Si
